US06313311B1
4-(6-Methoxy-4,5-dimethylindan-1-yl)-1H-imidazole
3-(1H-Imidazol-4-yl)-5-methoxy-6,7-dimethylindan-1-ol (0.29 g) is dissolved in the mixture of ethanol (30 ml) and concentrated hydrochloric acid (0.2 ml). The solution is hydrogenated at 50-55° C. with 10% palladium on carbon as catalyst until no more hydrogen is consumed. The mixture is filtered and the filtrate is evaporated to dryness. The residue is crystallized from the mixture of ethyl acetate and ethanol. M.p. of the hydrochloride salt is 174-177° C.

reactant | 3-(1H-Imidazol-4-yl)-5-methoxy-6,7-dimethylindan-1-ol | 0.29 g | N1C=NC(=C1)C1CC(C2=C(C(=C(C=C12)OC)C)C)O | C15H18N2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 0.2 ml | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
product | 4-(6-Methoxy-4,5-dimethylindan-1-yl)-1H-imidazole | COC1=C(C(=C2CCC(C2=C1)C=1N=CNC1)C)C | C15H18N2O
